US07132442B2
5-Bromo4-methylthiophene-2-carboxylic acid (Nemec, M.; Janda, Miroslav; Srogl, Jan; Stibor, I. Collection of Czechoslovak Chemical Communications (1974), 39(12), 3527–31.) (2.5 g, 11 mmol) was suspended in dichloromethane (25 ml) and dimethylformamide (0.1 ml). Oxalyl chloride (1.1 ml, 13 mmol) was added and the mixture was allowed to stir at ambient temperature for 2 hours. The solvent was evaporated and the crude acid chloride was dried under vacuum. The acid chloride was dissolved in a mixture of acetonitrile (20 ml), tetrahydrofuran (20 ml) and triethylamine (2.0 ml, 14 mmol) and the mixture was cooled in an ice-bath. A solution of (trimethylsilyl)diazomethane (8.5 ml) in hexane (2.0M, 17 mmol) was added dropwise and the mixture allowed to stir in an ice-bath for 20 hours. The solvent was evaporated and the residue partitioned between 1N hydrochloric acid and ethyl acetate. The organic layer was separated, dried over magnesium sulfate and then evaporated to leave a yellow solid. The crude alpha-diazoketone was dissolved in a mixture of benzyl alcohol (10 ml) and 2,4,6-trimethylpyridine (10 ml) and heated to 180 C for 2 hours. The mixture was allowed to cool and then purified directly by flash chromatography on silica eluting with a mixture of 10% ethyl acetate in iso-hexane to afford benzyl (5-bromo4-methyl-2-thienyl)acetate (0.982 g) as a dark yellow oil

reactant | 5-Bromo4-methylthiophene-2-carboxylic acid | 11 mmol, 2.5 g | BrC1=C(C=C(S1)C(=O)O)C | C6H5BrO2S
reactant | Oxalyl chloride | 13 mmol, 1.1 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 14 mmol, 2.0 ml | C(C)N(CC)CC | C6H15N
reactant | (trimethylsilyl)diazomethane | 8.5 ml | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | hexane | 17 mmol, 2.0M | CCCCCC | C6H14
reactant | dimethylformamide | 0.1 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | benzyl alcohol | 10 ml | C(C1=CC=CC=C1)O | C7H8O
solvent | 2,4,6-trimethylpyridine | 10 ml | CC1=NC(=CC(=C1)C)C | C8H11N
product | benzyl (5-bromo4-methyl-2-thienyl)acetate | 0.982 g | BrC1=C(C=C(S1)CC(=O)OCC1=CC=CC=C1)C | C14H13BrO2S
